US08865712B2
b) (2-Bromo-pyridin-4-yl)-acetic acid
A suspension of 2-(2-bromo-pyridin-4-yl)-malonic acid diethyl ester (115 g, 316 mmol) and K2CO3 (125.23 g, 907.5 mmol) in water (500 ml) was heated at 100° C. for 8 h under constant stirring. Reaction mixture was cooled to rt and concentrated under reduced pressure to remove solvent completely. The solid residue was dissolved in minimum quantity of water (25 ml) and washed with 20% ethyl acetate in hexane to remove non polar impurities. The aqueous layer was separated and cooled to 0° C. followed by adjusting pH to 7 using aq. 6 N HCl. The precipitated solid was filtered using Buchner funnel, washed with ice cold water and dried under vacuum to furnish title compound as an off white solid. with sufficient purity. Yield: 60.0 g (76.3%). TLC (70% ethyl acetate in hexane) Rf=0.05; LCMS: RtH8=0.193; [M+1]+=215.9 and 217.9; HPLC RtH9=3.025 min (98%); 1H NMR (400 MHz, CDCl3): b 12.71 (s, 1H), 8.33 (d, 1H), 7.61 (s, 1H), 7.37 (d, 1H), 3.71 (s, 3H).

reactant | 2-(2-bromo-pyridin-4-yl)-malonic acid diethyl ester | 316 mmol, 115 g | C(C)OC(C(C(=O)OCC)C1=CC(=NC=C1)Br)=O | C12H14BrNO4
reactant | K2CO3 | 907.5 mmol, 125.23 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 500 ml | O | H2O
product | (2-Bromo-pyridin-4-yl)-acetic acid | BrC1=NC=CC(=C1)CC(=O)O | C7H6BrNO2
